US06864396B2
A mixture of 1 gram of 3,9-dimethylpentacene-5,7(12H,14H)-dione and 10 mL of 2-methoxyethyl ether was stirred and flushed with nitrogen for 15 minutes. To this was added 0.948 grams of sodium borohydride and stirring was continued at room temperature overnight. To the mixture was added 6.3 mL of methanol and stirring was continued for 1.5 hours at room temperature. To the mixture was added 15 mL of acetic acid and 10 mL of concentrated hydrochloric acid. The mixture was stirred for one hour at room temperature followed by heating for one hour at 60° C. To the mixture was added 50 mL of water and the solid was isolated by filtration and washed with water. The solid was washed with tetrahydrofuran until a pale filtrate resulted. The resulting solid was washed with heptane and dried under an atmosphere of nitrogen to give 2,10-dimethylpentacene.

reactant | 3,9-dimethylpentacene-5,7(12H,14H)-dione | 1 gram | CC=1C=CC=2CC3=CC=4CC5=CC=C(C=C5C(C4C=C3C(C2C1)=O)=O)C | C24H18O2
solvent | 2-methoxyethyl ether | 10 mL | COCCOCCOC | C6H14O3
product | 2,10-dimethylpentacene | CC1=CC2=CC3=CC4=CC5=CC(=CC=C5C=C4C=C3C=C2C=C1)C | C24H18
